US08809539B2
Sodium carbonate (0.125 g, 0.0012 mol) is added to a solution of 1-{4-[5-(2-fluorobiphenyl-4-yl)-1,2,4-oxadiazole-3-yl]benzyl}piperidine-4,4-dicarboxylic acid mono benzyl ester (0.35 g, 0.00059 mol) in N,N-dimethylacetamide (3.5 mL). The reaction mixture is stirred for 30 minutes at room temperature. Chloromethyl pivalate (0.187 g, 0.0012 mol) is added to the reaction mixture which is then heated at 65° C. for 4 hrs. The reaction mixture is treated with demineralized water (5 mL) and extracted in ethyl acetate (2×5 mL). Sodium chloride (0.25 g) is added to the ethyl acetate layer and stirred for 15 minutes. Demineralized water (5 mL) is added to the ethyl acetate layer and the layers are separated. The ethyl acetate layer is dried over sodium sulphate. Removal of solvent under reduced pressure gives a viscous liquid, which is purified by column chromatography (silica gel 230-400 mesh, n-hexane:ethyl acetate 70:30) to furnish 1-{4-[5-(2-fluorobiphenyl-4-yl)-1,2,4oxadiazol-3-yl]benzyl}-piperidine-4,4-dicarboxylic acid benzyl ester (2,2-dimethylpropanoyloxymethyl) ester.

reactant | Sodium carbonate | 0.0012 mol, 0.125 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-{4-[5-(2-fluorobiphenyl-4-yl)-1,2,4-oxadiazole-3-yl]benzyl}piperidine-4,4-dicarboxylic acid mono benzyl ester | 0.00059 mol, 0.35 g | C(C1=CC=CC=C1)OC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=CC=CC=C1)F)C(=O)O | C35H30FN3O5
reactant | Chloromethyl pivalate | 0.0012 mol, 0.187 g | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | water | 5 mL | O | H2O
solvent | N,N-dimethylacetamide | 3.5 mL | CN(C(C)=O)C | C4H9NO
product | 1-{4-[5-(2-fluorobiphenyl-4-yl)-1,2,4oxadiazol-3-yl]benzyl}-piperidine-4,4-dicarboxylic acid benzyl ester (2,2-dimethylpropanoyloxymethyl) ester | CC(C(=O)OCOC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=CC=CC=C1)F)C(=O)OCC1=CC=CC=C1)(C)C | C41H40FN3O7
